US03966773
Preparation of 3-(tert-butoxy)-1-iodohexane
A mixture of 23.4 g. of 1-chloro-3-hexanol [Fourneau, et. al., Bull. Soc. Chem. France, 25, 367 (1919)] in 300 ml. of 2-butanone containing 30 g. of sodium iodide is stirred at the reflux temperature for 18 hours. The cooled solution is filtered and the mother liquor is taken to dryness. Distillation of the residue affords 32.9 g. (84%) of 1-iodo-3-hexanol, b.p. 105°C (10 mm). Treatment of this material in 500 ml. of methylene chloride, containing 4 ml. of concentrated sulfuric acid, with isobutylene according to the procedure described in Example 492 gives 27 g. of crude material. Chromatography on florisil affords 16 g. of product; λmax. 7.22 and 7.37 μ (tert-butyl group).

reactant | 1-chloro-3-hexanol | ClCCC(CCC)O | C6H13ClO
reactant | sodium iodide | [I-].[Na+]
reactant | 1-iodo-3-hexanol | ICCC(CCC)O | C6H13IO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | CC(C)=C | C4H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 2-butanone | 30 g | CC(CC)=O | C4H8O
product | 3-(tert-butoxy)-1-iodohexane | C(C)(C)(C)OC(CCI)CCC | C10H21IO
